US07902248B2
(3-Chloro-4-methanesulfonyl-phenyl)-oxo-acetic acid methyl ester (1.75 g, 6.32 mmol) was stirred in methanol (14 mL) and warmed in a 70° C. oil bath. O-Cyclopentyl-hydroxylamine (1.09 g, 7.92 mmol) was added. After 2 h, the reaction mixture was allowed to cool and concentrated in vacuo. Purification by flash column chromatography (Merck silica gel 60, 40-63 □m; 20% ethyl acetate/hexanes) gave (E)-(3-chloro-4-methanesulfonyl-phenyl)-cyclopentyloxyimino-acetic acid methyl ester (1.01 g, 44%) eluting second as a clear, colorless oil which solidified over time: H1-NMR (400 MHz, CDCl3) δ=1.62 (4H, m), 1.85 (4H, m), 3.31 (3H, s), 3.91 (3H, s), 4.96 (1H, m), 7.48 (1H, dd, J=8.2 Hz, J=1.3 Hz), 7.59 (1H, d, J=1.2 Hz), 8.17 (1H, d, J=8.2 Hz).

reactant | (3-Chloro-4-methanesulfonyl-phenyl)-oxo-acetic acid methyl ester | 6.32 mmol, 1.75 g | COC(C(=O)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C10H9ClO5S
reactant | O-Cyclopentyl-hydroxylamine | 7.92 mmol, 1.09 g | C1(CCCC1)ON | C5H11NO
solvent | methanol | 14 mL | CO | CH4O
product | (E)-(3-chloro-4-methanesulfonyl-phenyl)-cyclopentyloxyimino-acetic acid methyl ester | 1.01 g, 44% | COC(/C(=N/OC1CCCC1)/C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C15H18ClNO5S
